US06677368B2
To a solution of 4-phenyl-1,3-dihydro-indol-2-one (52.3 mg, 0.25 mmol) and 3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde (61.2 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 3-[3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-phenyl-1,3-dihydro-indol-2-one as a yellow solid (40.6 mg, 38%).

reactant | 4-phenyl-1,3-dihydro-indol-2-one | 0.25 mmol, 52.3 mg | C1(=CC=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H11NO
reactant | 3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.26 mmol, 61.2 mg | CC1=C(NC=C1C(=O)N1CCN(CC1)C)C=O | C12H17N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 3-[3-methyl-4-(4-methyl-piperazine-1-carbonyl)-1H-pyrrol-2-ylmethylene]-4-phenyl-1,3-dihydro-indol-2-one | 40.6 mg, 38% | CC1=C(NC=C1C(=O)N1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C1=CC=CC=C1)=O | C26H26N4O2
